US05612373
A solution containing 4-t-butoxycarbonylaminomethylbenzoic acid (5.0 g) and triethylamine (3.0 ml) in dry THF (180 ml) was treated at 10° C. with isobutyl chloroformate (2.7 ml) and the resulting mixture was stirred for 10 minutes. A solution of benzyl carbazate (3.4 g) in THF (20 ml) was added and the mixture was stirred for 15 hours at ambient temperature. The resulting precipitate was removed by filtration and the filtrate was diluted with ethyl acetate (500 ml) and washed with water (3×100 ml) and with saturated brine (100 ml). The organic solution was dried (MgSO4) and evaporated to a volume of 150 ml. After 1 hour the mixture was filtered to give benzyl 3-(4-t-butoxycarbonylaminomethylbenzoyl)carbazate (3.6 g) as colourless prisms; m.p. 160°-162° C.; NMR Spectrum 1.4 (9H, s); 4.2 (2H, d); 5.1 (2H, s); 7.2-7.5 (2H+5H, m); 7.8 (2H, d); 9.3 (1H, s); 10.3 (1H, s).

reactant | 4-t-butoxycarbonylaminomethylbenzoic acid | 5.0 g | C(C)(C)(C)OC(=O)NCC1=CC=C(C(=O)O)C=C1 | C13H17NO4
reactant | triethylamine | 3.0 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 2.7 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | benzyl carbazate | 3.4 g | C(NN)(=O)OCC1=CC=CC=C1 | C8H10N2O2
solvent | THF | 180 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | benzyl 3-(4-t-butoxycarbonylaminomethylbenzoyl)carbazate | 3.6 g | C(C)(C)(C)OC(=O)NCC1=CC=C(C(=O)NNC(=O)OCC2=CC=CC=C2)C=C1 | C21H25N3O5
